US09062028B2
Step B. 4-(2,3-Dimethylphenoxy)-1-(5-(1-((2-(methylthio)pyrimidin-4-yl)methyl)-1H-pyrazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)butan-1-one
The title compound was prepared using a procedure analogous to 4-(2,3-dimethylphenoxy)-1-(5-(4-(hydroxymethyl)phenyl)-3,4-dihydroquinolin-1(2H)-yl)butan-1-one except that 4-(hydroxymethyl)phenylboronic acid was replaced with 2-(methylthio)-4-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)methyl)pyrimidine. LCMS, [M+H]+=528.4. 1H NMR (400 MHz, CDCl3) δ 8.51 (d, J=5.3 Hz, 1H), 7.62 (s, 1H), 7.46 (s, 1H), 7.16-7.25 (m, 3H), 7.02 (t, J=7.8 Hz, 1H), 6.74 (d, J=7.5 Hz, 1H), 6.69 (d, J=5.1 Hz, 1H), 6.65 (d, J=8.4 Hz, 1H), 5.40 (s, 2H), 3.94 (t, J=5.5 Hz, 2H), 3.81 (t, J=6.8 Hz, 2H), 2.79 (t, J=7.2 Hz, 2H), 2.54-2.63 (m, 5H), 2.11-2.26 (m, 5H), 1.82-1.97 (m, 5H).

reactant | 4-(2,3-dimethylphenoxy)-1-(5-(4-(hydroxymethyl)phenyl)-3,4-dihydroquinolin-1(2H)-yl)butan-1-one | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C2=CC=C(C=C2)CO)C=CC=C1C | C28H31NO3
reactant | 4-(hydroxymethyl)phenylboronic acid | OCC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | 2-(methylthio)-4-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)methyl)pyrimidine | CSC1=NC=CC(=N1)CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C15H21BN4O2S
product | 4-(2,3-Dimethylphenoxy)-1-(5-(1-((2-(methylthio)pyrimidin-4-yl)methyl)-1H-pyrazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)butan-1-one | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C=2C=NN(C2)CC2=NC(=NC=C2)SC)C=CC=C1C | C30H33N5O2S
